US04140792
5.55 g (0.03 mol) of 4-difluoromethoxy-phenyl isocyanate in 20 ml of toluene were added, at 50° C., to a solution of 8.74 g (0.03 mol) of 3-(4-chlorophenyl)-5-(4-chlorophenyl)-2-pyrazoline in 100 ml of toluene and the batch was stirred for 2 hours at 80° C. After it had cooled, the product which had precipitated was isolated by filtration. 5 g (35% of theory) of 1-(4-difluoromethoxyphenylcarbamoyl)-3-(4-chlorophenyl)-5-(4-chlorophenyl)-2-pyrazoline of melting point 174° C. were obtained.

reactant | 4-difluoromethoxy-phenyl isocyanate | 0.03 mol, 5.55 g | FC(OC1=CC=C(C=C1)N=C=O)F | C8H5F2NO2
reactant | 3-(4-chlorophenyl)-5-(4-chlorophenyl)-2-pyrazoline | 0.03 mol, 8.74 g | ClC1=CC=C(C=C1)C1=NNC(C1)C1=CC=C(C=C1)Cl | C15H12Cl2N2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4-difluoromethoxyphenylcarbamoyl)-3-(4-chlorophenyl)-5-(4-chlorophenyl)-2-pyrazoline | 5 g, 35% | FC(OC1=CC=C(C=C1)NC(=O)N1N=C(CC1C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)F | C23H17Cl2F2N3O2
